US04419352
Diethyl 4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate
Ethyl 6-ethylthio-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline 2,8-dicarboxylate (2.85 g) was dissolved in ethanol (200 ml), and ethanol washed Raney nickel (30 g wet) added carefully. The mixture was refluxed for 11/2 hours, filtered to remove the catalyst, and concentrated, to give on cooling the title compound, (1.76 g) mp 168°-171° C.

reactant | Ethyl 6-ethylthio-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline 2,8-dicarboxylate | 2.85 g | C(C)SC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)[O-]
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | Diethyl 4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 1.76 g | O=C1C=C(OC2=C1C=C1C=CC(=NC1=C2CCC)C(=O)OCC)C(=O)OCC | C21H21NO6
